US07157447B2
2-(2-(Methylthio)ethoxy)propanoic acid.
Addition of 2-methylthioethanol (10.0 g, 0.108 mol) to sodium hydride (9.54 g of a 60% dispersion in mineral oil, 0.238 mol, washed twice with hexane) followed by reaction with 2-bromopropionic acid (16.6 g, 0.108 mol) gave 13.81 g (78% yield) of the title compound as a clear oil; bp 80–90° C./0.2 torr (bulb to bulb distillation, air bath temperature). 1HNMR 400 MHz (CDCl3) δ ppm: 1.49 (3H, d, J=7.0 Hz, CH3), 2.18 (3H, s, SCH3), 2.76 (2H, t, J=6.6 Hz, CH2), 3.74 (2H, t, J=6.6 Hz, CH2), 4.07 (1H, d, J=7.0 Hz, OCH).

reactant | 2-methylthioethanol | 0.108 mol, 10.0 g | CSCCO | C3H8OS
reactant | sodium hydride | [H-].[Na+]
reactant | 2-bromopropionic acid | 0.108 mol, 16.6 g | BrC(C(=O)O)C | C3H5BrO2
product | 2-(2-(Methylthio)ethoxy)propanoic acid | 13.81 g, 78% yield | CSCCOC(C(=O)O)C | C6H12O3S
